US04803280
5-Phenyl-4-(phenylthio)-1,2,3-thiadiazole
A solution of (Z)-[2-phenyl-1-(phenylthio)ethylidene]hydrazinecarboxylic acid, methyl ester in 450 ml of dry dichloromethane was treated with 29.7 g of thionyl chloride. This mixture ws refluxed for one hour, then poured into chipped ice and extracted three times with ether. The extracts were combined, washed with 0.1N sodium hydroxide twice, water and saturated sodium chloride and dried. This material was evaporated onto 100 g of silica gel which was then poured onto a column of silica gel packed in petroleum ether. The column was eluted with a gradient of 20-60% dichloromethane in petroleum ether, giving 35 g of the desired compound as an orange oil. Proton nuclear magnetic resonance (δ[ppm], CDCl3) 90 MHz: 7.28 (bs, 5H, C6H5); 7.30-7.65 (m, 5H, C6H5). Infrared absorption spectrum (neat): 1580(m); 1475(s); 1440(s); 1286(w); 1265(m); 1255(m); 1240(w); 1025(w); 1005(w); 985(w); 935(m); 915(m); 805(m); 765(m); 745(s); 695(s).

reactant | (Z)-[2-phenyl-1-(phenylthio)ethylidene]hydrazinecarboxylic acid, methyl ester | C1(=CC=CC=C1)C/C(/SC1=CC=CC=C1)=N/NC(=O)OC | C16H16N2O2S
reactant | thionyl chloride | 29.7 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | 5-Phenyl-4-(phenylthio)-1,2,3-thiadiazole | 35 g | C1(=CC=CC=C1)C1=C(N=NS1)SC1=CC=CC=C1 | C14H10N2S2
